US05814651
4-(4-Methoxy3-(5-phenylpentyloxy)phenyl-2-methylbenzohydroxamic acid
A solution of 2-methyl-4-[4-methoxy-3-(5-phenylpentyloxy)phenyl]benzoic acid (0.13 g, 0.32 mmoles) in oxalyl chloride (5 ml) was heated to reflux under nitrogen for about 10 minutes. The solution was concentrated under reduced pressure and the residue dried at about 25° C. (0.05 mm pressure). The residue was then dissolved in dry THF (5 ml) and added slowly to a solution of hydroxylamine hydrochloride (0.022 g, 0.32 mmoles) in pyridine at about 0° C. After stirring at about 25° C. for about 16 hours the volatiles were removed under reduced pressure and the residue was slurried in 1NHCl. The mixture was then extracted with ethyl acetate and the combined organics were washed with water and brine, and dried over MgSO4. Filtration followed by concentration under reduced pressure yielded a beige solid. Recrystallization from isopropyl ether (10 ml) gave 0.055 grams of the title compound as an off-white solid. M.P. 125°-126°C.; analysis calc'd. for C26 H2 gNO4 : C,74.43; H, 6.97; N, 3.34. Found: C, 73.85; H, 6.78; N, 3.34.

reactant | 2-methyl-4-[4-methoxy-3-(5-phenylpentyloxy)phenyl]benzoic acid | 0.32 mmoles, 0.13 g | CC1=C(C(=O)O)C=CC(=C1)C1=CC(=C(C=C1)OC)OCCCCCC1=CC=CC=C1 | C26H28O4
reactant | hydroxylamine hydrochloride | 0.32 mmoles, 0.022 g | Cl.NO
reactant | oxalyl chloride | 5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-Methoxy3-(5-phenylpentyloxy)phenyl-2-methylbenzohydroxamic acid | 0.055 grams | COC1=C(C=C(C=C1)C=1C(=C(C(=O)NO)C=CC1)C)OCCCCCC1=CC=CC=C1 | C26H29NO4
